US08202885B2
BB36. 3-[5-(2-Methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-propionic acid
Prepared in analogy to the methods described for 3-[4,5-diphenyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-propionic acid replacing benzil with (2-methoxy-phenyl)-oxo-acetaldehyde.

reactant | 3-[4,5-diphenyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-propionic acid | C1(=CC=CC=C1)C=1N=C(N(C1C1=CC=CC=C1)COCC[Si](C)(C)C)CCC(=O)O | C24H30N2O3Si
reactant | (2-methoxy-phenyl)-oxo-acetaldehyde | COC1=C(C=CC=C1)C(C=O)=O | C9H8O3
product | 3-[5-(2-Methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-propionic acid | COC1=C(C=CC=C1)C1=CN=C(N1COCC[Si](C)(C)C)CCC(=O)O | C19H28N2O4Si
